US06169091A
4-[3-Methoxy-4-(2-methoxybenzyloxy)anilino]thieno[3,2-d]pyrimidine hydrochloride
4-Chlorothieno[3,2-d]pyrimidine (0.102 g, 0.60 mmol) and 3-methoxy-4-(2-methoxybenzyloxy)aniline (prepared according to the published method: WO 96/09294) (0.181 g, 0.70 mmol) were reacted in 2-propanol (3 ml) for 75 minutes according to Procedure A. The product was obtained as off-white prisms (0.211 g, 82%) with m.p. 207-208° C.; (Found: C, 58.55; H, 4.76; N, 9.53. C21H19N3O3S.HCl requires: C, 58.55; H, 4.69; N, 9.77%); δH [2H6]-DMSO 8.85 (1H, s, 2-H), 8.41 (1H, d, J 7, 6 H or 7 H) 7.55 (1H, d, J 7, 6-H or 7-H), 7.42 (1H, d, J 9, 6′-H), 7.34 (1H, t, J 8, 4″-H), 7.29 (1H, s, 2′-H), 7.02-7.20 (3H, m, 5′-H, 3″-H, 6″-H), 6.98 (1H, t, J 8, 5″-H), 5.08 (2H, s, CH2), 3.83 and 3.79 (2x 3H, 2 x s, 2 x OCH3); m/z 393 (M+).

reactant | 4-Chlorothieno[3,2-d]pyrimidine | 0.60 mmol, 0.102 g | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | 3-methoxy-4-(2-methoxybenzyloxy)aniline | COC=1C=C(N)C=CC1OCC1=C(C=CC=C1)OC | C15H17NO3
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | 4-[3-Methoxy-4-(2-methoxybenzyloxy)anilino]thieno[3,2-d]pyrimidine hydrochloride | 0.211 g, 82% | Cl.COC=1C=C(NC=2C3=C(N=CN2)C=CS3)C=CC1OCC1=C(C=CC=C1)OC | InChI=1S/C21H19N3O3S.ClH/c1-25-17-6-4-3-5-14(17)12-27-18-8-7-15(11-19(18)26-2)24-21-20-16(9-10-28-20)22-13-23-21;/h3-11,13H,12H2,1-2H3,(H,22,23,24);1H
